US04228280
A mixture of 1.97 g. (0.01 mole) 1,3,3-trimethyl-2-oxabicyclo[2,2,2]octan-5,6-dione-5-oxime and 0.35 ml. (0.011 mole) anhydrous hydrazine (98%) in 25 ml. absolute ethanol is refluxed under nitrogen at a bath temperature of 80° C. for 1 hour. After evaporation of the solvent, the residue is recrystallized from ether to give 1,3,3-trimethyl-2-oxabicyclo [2,2,2]octan-5,6-dione-5-oxime-6-hydrazone; mp. 138° to 142° C.

reactant | 1,3,3-trimethyl-2-oxabicyclo[2,2,2]octan-5,6-dione-5-oxime | 0.01 mole | CC12OC(C(C(C1=O)=NO)CC2)(C)C | C10H15NO3
reactant | hydrazine | 0.011 mole | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 1,3,3-trimethyl-2-oxabicyclo [2,2,2]octan-5,6-dione-5-oxime-6-hydrazone | CC12OC(C(C(C1=NN)=NO)CC2)(C)C | C10H17N3O2
